US06114318
4,4'-Disulfanediylbis(dihydro-furan-2-one)
A solution of β-mercapto-γ-butyrolactone (106 mg, 0.9 mmol) in dichloromethane (2 ml) was treated with a solution of iodine (253 mg, 1 mmol) in dichloromethane (5 ml) and the mixture was stirred for 18 h at 20° C. The reaction mixture was diluted with dichloromethane and washed with aqueous sodium metabisulfite solution, dried (MgSO4), the solvent was removed under reduced pressure, and the residue was purified by preparative TLC on a single plate (20 cm×20 cm) run in ethyl acetate-cyclohexane (2:1) to give the title compound (30 mg, 28%):. MS (TSP+ve) m/z 252 (M+NH4)+ ; IR νmax (KBr) 1778, 1771, 1164, 1023, 989, 843 cm-1 ; NMR δ (CDCl3) 4.6 (2 H, dd, J 9 and 6 Hz), 4.35 (2 H, dt, J 5 and 4 Hz), 3.86-3.72 (2 H, m), 2.96 (2 H, dd, J 17 and 8 Hz), 2.66 (2 H, dt, J 18 and 5 Hz); HRMS (EI) found: 234.0017. C8H10O4S2 requires 234.0020.

reactant | β-mercapto-γ-butyrolactone | 0.9 mmol, 106 mg | SC1CC(=O)OC1 | C4H6O2S
reactant | iodine | 1 mmol, 253 mg | II | I2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4,4'-Disulfanediylbis(dihydro-furan-2-one) | 30 mg, 28% | S(SC1CC(OC1)=O)C1CC(OC1)=O | C8H10O4S2
